US07728025B2
(Step 3) Production of t-butyl (4-(4-fluoro-phenoxy)-3-pyridin-2-yl-phenyl)-carbamate
100 mg of 10% palladium-carbon catalyst was added to an ethyl acetate (10 ml) solution of 840 mg of 2-(2-(4-fluoro-phenoxy)-5-nitro-phenyl)-pyridine, and the reaction liquid was stirred overnight in a hydrogen atmosphere. The catalyst was removed through filtration through Celite, and the solvent was evaporated away under reduced pressure to obtain a crude product. 1.5 g of di-t-butyl dicarbonate was added to a tetrahydrofuran (10 ml) solution of the resulting crude product, and the reaction liquid was stirred overnight at 60° C. The reaction liquid was cooled, the solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=10/1) to obtain the entitled compound as a white solid.

reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-(2-(4-fluoro-phenoxy)-5-nitro-phenyl)-pyridine | 840 mg | FC1=CC=C(OC2=C(C=C(C=C2)[N+](=O)[O-])C2=NC=CC=C2)C=C1 | C17H11FN2O3
reactant | hydrogen | [H][H] | H2
reactant | di-t-butyl dicarbonate | 1.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-butyl (4-(4-fluoro-phenoxy)-3-pyridin-2-yl-phenyl)-carbamate | FC1=CC=C(OC2=C(C=C(C=C2)NC(OC(C)(C)C)=O)C2=NC=CC=C2)C=C1 | C22H21FN2O3
